US08212068B2
n-Decanol (1.58 g, 10.0 mmol), ferulic acid (1.94 g, 10.0 mmol) and triphenylphosphine (2.88 g, 11.0 mmol) were dissolved in THF (20 ml), and DIAD (40% solution of diisopropyl azodicarboxylate in toluene, 5.56 g, 11.0 mmol) was added to the solution. The reaction mixture was stirred at room temperature for 16 hr and concentrated under reduced pressure. Ethyl acetate (100 ml) was added to the residue, and the mixture was washed with 5% aqueous citric acid solution (25 ml×3) and saturated brine (25 ml) and dried over anhydrous magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was developed by PTLC (n-hexane:ethyl acetate=2:1), and silica gel containing the object product was stirred with ethyl acetate (100 ml) for 30 min for extraction. The silica gel was filtered off, and the filtrate was concentrated under reduced pressure to give n-decanyl ferulate (2.55 g, yield 76.2%) as a colorless oil.

reactant | n-Decanol | 10.0 mmol, 1.58 g | C(CCCCCCCCC)O | C10H22O
reactant | ferulic acid | 10.0 mmol, 1.94 g | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)O | C10H10O4
reactant | triphenylphosphine | 11.0 mmol, 2.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 11.0 mmol, 5.56 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | n-decanyl ferulate | 2.55 g, yield 76.2% | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)OCCCCCCCCCC | C20H30O4
